US04550118
2-amino-5-hydroxymethylbenzimidazole (2.5 g) prepared according to the method described in Ger. offen. 2,528,846 (1976) and an aqueous 47% hydrobromic acid solution (25 ml) of cysteamine hydrochloride (1.3 g) were subjected to refluxing with heating for five hrs thereby to yield 2-amino-5-[(2-aminoethyl)thiomethyl]benzimidazole.3hydrobromate (melting point: 262°-265° C. (decomposition), 3 g).

reactant | 2-amino-5-hydroxymethylbenzimidazole | 2.5 g | NC=1NC2=C(N1)C=CC(=C2)CO | C8H9N3O
reactant | hydrobromic acid | 25 ml | Br | BrH
reactant | cysteamine hydrochloride | 1.3 g | Cl.NCCS
product | 2-amino-5-[(2-aminoethyl)thiomethyl]benzimidazole | NC=1NC2=C(N1)C=CC(=C2)CSCCN | C10H14N4S
